US04242519
α-Methylthio-α-[p-(o-carboxybenzoylamino)phenyl]propionic acid (146 mg) was dissolved in 1 ml of acetic acid, and the solution was heated under reflux for 3 hours. Acetic acid was removed under reduced pressure to afford 134 mg of α-methylthio-α-(p-phthalimidophenyl)propionic acid as colorless crystals.

reactant | α-Methylthio-α-[p-(o-carboxybenzoylamino)phenyl]propionic acid | 146 mg | CSC(C(=O)O)(C)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C(=O)O)=O | C18H17NO5S
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | α-methylthio-α-(p-phthalimidophenyl)propionic acid | 134 mg | CSC(C(=O)O)(C)C1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C18H15NO4S
